US05272147
(E)-4-Ethoxy-3(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamic acid dimethylamide
The title compound was prepared from N,N-dimethylacrylamide and 5-(5-bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one following the procedure of Example 19 and was obtained, following crystallisation from ethyl acetate-hexane, as colourless crystals (38%), m.p. 219°-221° C. Found: C,64.15; H,6.46; N,16.96. C22H27N5O3 requires C,64.53; H,6.65; N,17.10%

reactant | N,N-dimethylacrylamide | CN(C(C=C)=O)C | C5H9NO
reactant | 5-(5-bromo-2-ethoxyphenyl)-1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-7-one | BrC=1C=CC(=C(C1)C=1NC(C2=C(N1)C(=NN2C)CCC)=O)OCC | C17H19BrN4O2
product | (E)-4-Ethoxy-3(1-methyl-3-n-propyl-1,6-dihydro-7H-pyrazolo[4,3-d]-pyrimidin-5-yl)cinnamic acid dimethylamide | CN(C(\C=C\C1=CC(=C(C=C1)OCC)C=1NCC2=C(N1)C(=NN2C)CCC)=O)C | C22H29N5O2
